*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS 0 1 0.0 sin(0 220 50)
* vS 1 0 0 sin(0 5 400)


Ci 2 3 8u
Ri 2 3 4k

* positive limiter
Dp1 0 3 Default
Dp2 2 1 Default
Dp3 1 3 Default
Dp4 2 0 Default


.model Default D
.op
.end

.control

* analise no tempo
tran 5e-4 100e-3
* tran 1e-5 10e-3

plot v(3)-v(2) v(1)
