**
* Low-Pass Filter + Limiter
*

* forces current values to be saveD
.options savecurrents

******************************************
* input voltage source
*vfonte 22 23 0.0 sin(0 230 50)



vS 0 1 0.0 sin(0 220 50)
* vS 1 0 0 sin(0 5 400) 
*vs 20
G1 0 1 0 3 0.090909

Ex 0 3 0 1 0.090909



* positive limiter
R1 0 3 1k



*pre source v(3) -v(2)






.model Default D
.op
.enD

.control

******************************************
* analise no tempo
tran 5e-4 120e-3 20e-3
* tran 1e-5 10e-3

plot v(3)

.endc


